US04910307
(c) 2-Amino-9-benzyloxy-6-methoxypurine
A mixture of 9-benzyloxy-6-chloro-2-formamidopurine (440 mg, 1.60 mmol), 1.2M sodium methoxide in methanol (5.3 ml) and methanol (10 ml) was heated at reflux temperature for 1 hour and then cooled. Acetic acid (4 ml) was added and the solution evaporated to dryness. The residue was suspended in water and extracted with chloroform (2×25 ml). The combined chloroform extracts were washed with brine, dried (magnesium sulphate) and evaporated under reduced pressure. Column chromatography on silica gel (eluted with chloroform-methanol, 100:1) afforded the title compound (331 mg, 76%). IR: νmax (KBr) 3480, 3310, 1625, 1585, 1505, 1485, 1460, 1400 cm-1 ; 1H NMR: δH [(CD3)2SO] 3.96 (3H, s, CH3), 5.31 (2H, s, CH2Ph), 6.64 (2H, br.s, D2O exchangeable, NH2), 7.42 (5H, s, Ph), 7.75 (1H, s, H-8). Found C, 57.18, H, 4.84; N, 25.85%). m/e 271.1075. C13H13N5O2 requires: C, 57.56, H, 4.83, N, 25.82%; m/e 271.1069.

reactant | 9-benzyloxy-6-chloro-2-formamidopurine | 1.60 mmol, 440 mg | C(C1=CC=CC=C1)ON1C2=NC(=NC(=C2N=C1)Cl)NC=O | C13H10ClN5O2
reactant | sodium methoxide | 1.2M | C[O-].[Na+]
reactant | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 5.3 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-Amino-9-benzyloxy-6-methoxypurine | 331 mg, 76% | NC1=NC(=C2N=CN(C2=N1)OCC1=CC=CC=C1)OC | C13H13N5O2
